US05008285
Ethyl 4-[4-(2-ethoxycarbonylbenzyloxy)phenyl]pentanoate
A mixture of 12 g of ethyl 4-(4-hydroxyphenyl)pentanoate, 16.05 g of ethyl -bromo-o-toluate, 0.5 g of pulverized potassium iodide and 36.49 g of potassium carbonate in 300 ml of 2-butanone was heated under reflux overnight. The salts were collected and washed with ether. The filtrate was evaporated and the residue was partitioned between water and ether. The organic layer was separated, washed with 10% sodium hydroxide solution and water, dried over anhydrous sodium sulfate, filtered and evaporated. Chromatography on a Waters Associates Prep LC-System 500 (two silica gel columns; elution with dichloromethane) gave 12.15 g (59%) of product, as an oil.

reactant | ethyl 4-(4-hydroxyphenyl)pentanoate | 12 g | OC1=CC=C(C=C1)C(CCC(=O)OCC)C | C13H18O3
reactant | ethyl -bromo-o-toluate | 16.05 g | C(C)C=1C(=C(C(=CC1)C)C(=O)[O-])Br
reactant | potassium carbonate | 36.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 300 ml | CC(CC)=O | C4H8O
catalyst | potassium iodide | 0.5 g | [I-].[K+]
product | Ethyl 4-[4-(2-ethoxycarbonylbenzyloxy)phenyl]pentanoate | 12.15 g, 59% | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)C(CCC(=O)OCC)C)C=CC=C1 | C23H28O5
